US05011849
In an analogous manner to that described in Example 1(C), 21.7 g of O-methyl 3-(benzyloxy)thiobenzoate (44.13 mmol) were reacted with ethyl isocyanoacetate, whereby there were obtained 26.5 g (92.9%) of ethyl 5-[3-(benzyloxy)phenyl]-4-thiazolecarboxylate as an orange oil.

reactant | O-methyl 3-(benzyloxy)thiobenzoate | 44.13 mmol, 21.7 g | C(C1=CC=CC=C1)OC=1C=C(C(=S)OC)C=CC1 | C15H14O2S
reactant | ethyl isocyanoacetate | [N+](#[C-])CC(=O)OCC | C5H7NO2
product | ethyl 5-[3-(benzyloxy)phenyl]-4-thiazolecarboxylate | 26.5 g, 92.9% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=C(N=CS1)C(=O)OCC | C19H17NO3S
